### PR TITLE
feat(GroupTheory/Coxeter): identify rank-two Coxeter groups with dihedral groups

### PR DESCRIPTION
**Pull request by dicipler-pixel**
Identifies the Coxeter group associated to CoxeterMatrix.I m with DihedralGroup (m + 2).

The new file constructs the canonical homomorphism sending the two simple reflections to adjacent reflections, proves surjectivity, establishes a two-coset normal form in the presented Coxeter group, and uses that normal form to prove injectivity. It then exposes the resulting MulEquiv together with simp lemmas for the simple generators.

This makes precise the description already given in CoxeterMatrix.I's documentation that it is the Coxeter matrix for the symmetry group of the regular (m + 2)-gon.

Mathlib.lean was regenerated with lake exe mk_all.

### CODE REVIEW

File: Mathlib/GroupTheory/Coxeter/Dihedral.lean [hunk 1]
```diff
@@ -0,0 +1,221 @@
...
+    toDihedral m
+      ((CoxeterMatrix.I m).simple (0 : Fin 2) *
+        (CoxeterMatrix.I m).simple (1 : Fin 2)) = r 1 := by
+  simp
+
+/-- The canonical homomorphism onto the concrete dihedral group is surjective. -/
+theorem toDihedral_surjective (m : ℕ) : Function.Surjective (toDihedral m) := by
+  intro d
+  cases d with
+  | r i =>
```
Comment (JX-Mo) [inline Mathlib/GroupTheory/Coxeter/Dihedral.lean:67]: If you move your `c0 c1` below to the begining as `abbrev`, the proof could be
```
  | r i => exact ⟨((c0 m * c1 m) ^ i.val), by simp⟩
```

File: Mathlib/GroupTheory/Coxeter/Dihedral.lean [hunk 2]
```diff
@@ -0,0 +1,221 @@
...
+
+This file identifies the Coxeter group associated to `CoxeterMatrix.I m` with the concrete
+`DihedralGroup (m + 2)`.
+
+The canonical homomorphism sends the two simple reflections to two adjacent reflections of the
+regular `(m + 2)`-gon. We prove a two-coset normal form in the presented Coxeter group and use it
+to prove that this homomorphism is bijective.
+-/
+
+namespace CoxeterMatrix.I
```
Comment (JX-Mo) [inline Mathlib/GroupTheory/Coxeter/Dihedral.lean]: Why does the namespace have a `.I`?

File: Mathlib/GroupTheory/Coxeter/Dihedral.lean [hunk 3]
```diff
@@ -0,0 +1,221 @@
...
+  simpa [CoxeterMatrix.I] using
+    (CoxeterMatrix.I m).toCoxeterSystem.simple_mul_simple_pow
+      (0 : Fin 2) (1 : Fin 2)
+
+private theorem c1_eq_c0_mul_rot (m : ℕ) : c1 m = c0 m * rot m := by
+  calc
+    c1 m = 1 * c1 m := by simp
+    _ = (c0 m * c0 m) * c1 m := by rw [c0_sq]
+    _ = c0 m * (c0 m * c1 m) := by simp only [mul_assoc]
+    _ = c0 m * rot m := by rfl
```
Comment (JX-Mo) [inline Mathlib/GroupTheory/Coxeter/Dihedral.lean:109]:
```suggestion
  rw [← one_mul (c1 m), ← c0_sq, rot, mul_assoc]
```

**Review by JX-Mo — CHANGES_REQUESTED** [review]

File: Mathlib/GroupTheory/Coxeter/Dihedral.lean (hunk 1 above)
Comment (dicipler-pixel) [reply Mathlib/GroupTheory/Coxeter/Dihedral.lean:72]: Done—moved "c0" and "c1" before the surjectivity proof as abbreviations and simplified the witnesses. Thanks.

File: Mathlib/GroupTheory/Coxeter/Dihedral.lean (hunk 3 above)
Comment (dicipler-pixel) [reply Mathlib/GroupTheory/Coxeter/Dihedral.lean]: Applied the suggested direct rewrite. Thanks.

File: Mathlib/GroupTheory/Coxeter/Dihedral.lean (hunk 1 above)
Comment (JX-Mo) [reply Mathlib/GroupTheory/Coxeter/Dihedral.lean:72]: there is no need to refine ?_ here, since the question mark is closed by `by simp`. Try this
```
  | r i => exact ⟨((c0 m * c1 m) ^ i.val), by simp⟩
```

File: Mathlib/GroupTheory/Coxeter/Dihedral.lean [hunk 4]
```diff
@@ -0,0 +1,215 @@
...
+  rw [← one_mul (c1 m), ← c0_sq, rot, mul_assoc]
+
+@[simp] private theorem c0_mul_rot_mul_c0 (m : ℕ) :
+    c0 m * rot m * c0 m = (rot m)⁻¹ := by
+  rw [rot]
+  calc
+    c0 m * (c0 m * c1 m) * c0 m
+        = (c0 m * c0 m) * c1 m * c0 m := by simp only [mul_assoc]
+    _ = c1 m * c0 m := by simp
+    _ = (c0 m * c1 m)⁻¹ := by simp [mul_inv_rev]
```
Comment (JX-Mo) [inline Mathlib/GroupTheory/Coxeter/Dihedral.lean:112]: Try `rw` here and below, using the template above. We keep `calc` if intermediates step are too complicated to control by `rw` or `simp`, and note that `calc` is usually more expensive for Lean to compile.

**Comment by dicipler-pixel** [comment]
Addressed on the current head
`a1946e3323c98b707df03727fb1152f4a5ff4240`. The earlier `calc`-style
proof is no longer present; the current version uses direct `rw`/short
exact steps, including the simplified surjectivity witness. Commit
Verification, lint/suggest, and pre-commit are green on this head.
Would you mind re-checking the current head when convenient? Thank
you.

File: Mathlib/GroupTheory/Coxeter/Dihedral.lean [hunk 5]
```diff
@@ -0,0 +1,205 @@
...
+      · refine ⟨-k + 1, Or.inr ?_⟩
+        exact rot_zpow_mul_c1 m k
+    · subst w
+      fin_cases i
+      · refine ⟨-k, Or.inl ?_⟩
+        exact c0_mul_rot_zpow_mul_c0 m k
+      · refine ⟨-k + 1, Or.inl ?_⟩
+        exact c0_mul_rot_zpow_mul_c1 m k
+
+@[simp] private theorem toDihedral_c0 (m : ℕ) : toDihedral m (c0 m) = sr 0 := by
```
Comment (JX-Mo) [inline Mathlib/GroupTheory/Coxeter/Dihedral.lean:157]:
```suggestion
private theorem toDihedral_c0 (m : ℕ) : toDihedral m (c0 m) = sr 0 := by
```
